US05123951
3-Chloroaniline (2.82 grams, 0.02 mole), mono-ethyl methoxymalonate (3.58 grams, 0.02 mole), prepared in Example LIII Part B, and 1,3-dicyclohexylcarbodiimide (4.50 grams, 0.02 mole) were reacted in a manner similar to that described in Example LVII to give 1.60 grams (0.006 mole) of ethyl 3-[(3-chlorophenyl)amino]-2-methoxy-3-oxopropanoate having melting point of 43.50° C.-46.50° C.

reactant | 3-Chloroaniline | 0.02 mole, 2.82 grams | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | mono-ethyl methoxymalonate | 0.02 mole, 3.58 grams | COC(C(=O)OCC)C(=O)[O-]
reactant | 1,3-dicyclohexylcarbodiimide | 0.02 mole, 4.50 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | ethyl 3-[(3-chlorophenyl)amino]-2-methoxy-3-oxopropanoate | 0.006 mole, 1.60 grams | ClC=1C=C(C=CC1)NC(C(C(=O)OCC)OC)=O | C12H14ClNO4
